US20010020104A1
15 g of 5-bromo-2-anisaldehyde, 9.1 g of o-tolylboronic anhydride, 500 mg of bis(triphenylphosphine)palladium(II)chloride and 22.2 g of potassium phosphate together with 120 ml of dimethoxyethane are placed in a reaction vessel and refluxed for 3 hours. After cooling to room temperature, 200 ml of water are added and the mixture is extracted three times with 200 ml each time of methylene chloride. Evaporation and chromatography of the residue on silica gel (heptane:methylene chloride 1:1) gives 13 g (82%) of 4-methoxy-2′-methylbiphenyl-3-carbaldehyde having a melting point of 66-69° C.

reactant | 5-bromo-2-anisaldehyde | 15 g | BrC1=CC=C(C(C=O)=C1)OC | C8H7BrO2
reactant | potassium phosphate | 22.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethoxyethane | 120 ml | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 500 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 200 ml | O | H2O
product | 4-methoxy-2′-methylbiphenyl-3-carbaldehyde | 13 g, 82% | COC1=C(C=C(C=C1)C1=C(C=CC=C1)C)C=O | C15H14O2
